US05866592
β-Ethyl-α,α-dimethyl-β-alanine hydrochloride (2.0 g, 11.07 mmol) was dissolved in a 10% aqueous solution of sodium carbonate (11.7 ml). To the resulting solution was added a dioxane solution (40 ml) of di-t-butyldicarbonate (2.9 g, 13.21 mmol) under cooling with ice and the mixture was stirred at room temperature overnight. The solvent was distilled off and the resulting residue was dissolved in water and washed with ether. The aqueous layer was adjusted to pH 3 with citric acid under cooling with ice, followed by ethyl acetate extraction. The collected ethyl acetate layer was washed with saturated saline and dried over anhydrous sodium sulfate. The solvent was distilled off to yield a crystal of N-Boc-β-ethyl-α,α-dimethyl-β-alanine (2.7 g, quant.) from a mixed solution of ether-hexane.

reactant | β-Ethyl-α,α-dimethyl-β-alanine hydrochloride | 11.07 mmol, 2.0 g | Cl.C(C)C(N)C(C(=O)O)(C)C
reactant | dioxane | 40 ml | O1CCOCC1 | C4H8O2
reactant | di-t-butyldicarbonate | 13.21 mmol, 2.9 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | sodium carbonate | 11.7 ml | C([O-])([O-])=O.[Na+].[Na+]
product | N-Boc-β-ethyl-α,α-dimethyl-β-alanine | 2.7 g | C(=O)(OC(C)(C)C)NC(C(C(=O)O)(C)C)CC | C12H23NO4
